US07713994B2
N-[(4E)-1,3-Dioxo-4-(methoxy)methylene-1,2,3,4-tetrahydroisoquinolin-6-yl]acetamide
To a stirred mixture of 90 mg (0.50 mmol) of 6-aminoisoquinoline-1,3(2H,4H) -dione, 0.80 ml (8.5 mmol) of Ac2O, and 0.20 ml of N,N-dimethylformamide is added 0.11 ml 1.0 mmol) of trimethyl orthoformate. The mixture is heated to 125° and maintained for 30 m, cooled, diluted with ether, and stirred for 10 minutes. The resulting amber solid is filtered, washed with ether, and dried to give 96 mg (74%); MS (ES+) m/z 261.1 (M+H)+1.

reactant | 6-aminoisoquinoline-1,3(2H,4H) -dione | 0.50 mmol, 90 mg | NC=1C=C2CC(NC(C2=CC1)=O)=O | C9H8N2O2
reactant | Ac2O | 8.5 mmol, 0.80 ml | CC(=O)OC(=O)C | C4H6O3
reactant | N,N-dimethylformamide | 0.20 ml | CN(C=O)C | C3H7NO
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
solvent | ether | CCOCC | C4H10O
product | N-[(4E)-1,3-Dioxo-4-(methoxy)methylene-1,2,3,4-tetrahydroisoquinolin-6-yl]acetamide | O=C1NC(/C(/C2=CC(=CC=C12)NC(C)=O)=C/OC)=O | C13H12N2O4
